US06676851B1
A mixture of 4,4′-dihydroxy-3-biphenylcarboxylic acid (2.3 g; 10 mmol), 1,8-diaza-bicyclo[5.4.0]undec-7-ene (1.7 g; 11.2 mmol), 4-bromobutyronitrile (1.7 g; 11.2 mmol) and N,N-dimethylformamide (40 ml) was heated at 75° C. for 4 h. The reaction mixture was cooled, poured into water (300 ml) and extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with 1N-hydrochloric acid (150 ml) and with water (2×100 ml), dried over magnesium sulphate and filtered. The organic solvent was removed in vacuo. The residue (3.0 g) was purified by flash chromatography using a silica gel column and toluene/ethyl acetate (97:3) as eluent to give 2.1 g (70%) of 3-cyanopropyl-4,4′-dihydroxy-3-biphenylcarboxylate.

reactant | 4,4′-dihydroxy-3-biphenylcarboxylic acid | 10 mmol, 2.3 g | OC1=C(C=C(C=C1)C1=CC=C(C=C1)O)C(=O)O | C13H10O4
reactant | 1,8-diaza-bicyclo[5.4.0]undec-7-ene | 11.2 mmol, 1.7 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-bromobutyronitrile | 11.2 mmol, 1.7 g | BrCCCC#N | C4H6BrN
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 3-cyanopropyl-4,4′-dihydroxy-3-biphenylcarboxylate | 2.1 g, 70% | C(#N)CCCOC(=O)C=1C=C(C=CC1O)C1=CC=C(C=C1)O | C17H15NO4
